US06313132B1
36.1 3-Cyano-3-phenylpropanoic acid
Ethyl cinnamate (85.3 g, 0.484 mol), potassium cyanide (64.2 g, 0.986 mol) and ammonium chloride (38.9 g, 0.726 mol) were mixed with aqueous DMF (90%, 360 mL). The mixture was stirred at 105° C. for 7 hours. The somewhat cooled mixture was filtered and most of the DMF was evaporated. The residue was taken up in diethyl ether and 1 M HCl. The aqueous phase was extracted twice with diethyl ether. The combined diethyl ether phases were evaporated and the black oil was suspended in EtOH (200 mL) and 2 M NaOH (250 mL) and stirred at ambient temperature for 2 hours. The mixture was diluted with brine (200 mL) and water (400 mL) and washed twice with diethyl ether. After acidification (12 M HCl) the aqueous phase was extracted three times with diethyl ether. The pooled organic phases were dried (Na2SO4) and the solvent evaporated affording the title compound as a black oil, 74 g (87%): 1H NMR (CDCl3) δ1.05 (d, 3H), 1.17 (d, 3H), 1.22 (d, 6H), 2.68 (dd, 1H), 3.16 (dd, 1H), 3.4 (br, 1H), 3.76 (m, 1H) 4.19 (dd, 1H), 7.31 (m, 5H), 8.9 (br, 1H).

reactant | Ethyl cinnamate | 0.484 mol, 85.3 g | C(C=CC1=CC=CC=C1)(=O)OCC | C11H12O2
reactant | potassium cyanide | 0.986 mol, 64.2 g | [C-]#N.[K+]
reactant | ammonium chloride | 0.726 mol, 38.9 g | [Cl-].[NH4+]
solvent | DMF | 360 mL | CN(C)C=O | C3H7NO
product | 3-Cyano-3-phenylpropanoic acid | C(#N)C(CC(=O)O)C1=CC=CC=C1 | C10H9NO2
